US07612067B2
Preparation of 3-(3-chloro-5-pyridin-2-yl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a flask containing 3-(5-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.25 g, 0.61 mmol) and PdCl2(dppf) (0.022 g, 0.030 mmol) is added a 0.5 M solution of 2-pyridylzinc bromide (2.40 mL, 1.21 mmol) and the solution heated at 65° C. overnight, diluted with EtOAc (30 mL), washed with sat. NH4Cl (2×30 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (20%-40% EtOAc/hexane gradient) followed by recrystallization from CH3CN furnish the title compound (0.15 g, 0.36 mmol, 60%). 1H NMR (CDCl3) δ 0.88 (d, J=7.5 Hz, 6H), 1.73-1.93 (m, 4H), 2.52 (s, 3H), 2.53 (s, 3H), 3.29-3.38 (m, 1H), 6.70 (s, 1H), 7.17-7.23 (m, 1H), 7.56 (s, 1H), 7.66 (d, J=7.9 Hz, 1H), 7.70-7.76 (m, 1H), 8.59 (d, J=4.7 Hz, 1H). LC/MS (m/z): calcd. for C22H23ClN4S (M+H)+: 412.0; found: 412.4.

reactant | 3-(5-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.61 mmol, 0.25 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H19BrClN3S
reactant | 2-pyridylzinc bromide | 1.21 mmol, 2.40 mL | [Br-].N1=C(C=CC=C1)[Zn+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.030 mmol, 0.022 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(3-chloro-5-pyridin-2-yl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.36 mmol, 0.15 g, 60% | ClC1=C(SC(=C1)C1=NC=CC=C1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C22H23ClN4S
